US08455499B2
Step 2: 2-(4-Bromo-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester
4-Bromobenzoyl chloride (17.14 g, 78.1 mmol) and 3-methylamino-but-2-enoic acid methyl ester (10.0 g, 78.1 mmol) were combined in THF (600 mL) and cooled to 0° C. Pyridine (6.8 mL, 85.9 mmol) was added by syringe, and the reaction was stirred overnight at room temperature. Solid pyridine hydrochloride was observed on the flask walls, so the solution was decanted and then concentrated to 10% of its original volume. The residue was diluted with EtOAc (400 mL) and washed twice with H2O. The organic layer was dried, filtered, and concentrated to give the title compound.

reactant | 4-Bromobenzoyl chloride | 78.1 mmol, 17.14 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | 3-methylamino-but-2-enoic acid methyl ester | 78.1 mmol, 10.0 g | COC(C=C(C)NC)=O | C6H11NO2
reactant | Pyridine | 85.9 mmol, 6.8 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 2-(4-Bromo-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester | COC(C(/C(/C)=N/C)C(C1=CC=C(C=C1)Br)=O)=O | C13H14BrNO3
